US03965074
By the procedure of Example 2, adding 1,3-dichloro-1-(trifluoromethyl)tetrafluoropropyl isocyanate to a suspension of powdered zinc in ether will yield 2,2-difluoro-1-(2-chlorotetrafluoroethyl)vinyl isocyanate.

reactant | 1,3-dichloro-1-(trifluoromethyl)tetrafluoropropyl isocyanate | ClC(C(C(Cl)(F)F)(F)F)(C(F)(F)F)N=C=O | C5Cl2F7NO
solvent | ether | CCOCC | C4H10O
catalyst | zinc | [Zn] | Zn
product | 2,2-difluoro-1-(2-chlorotetrafluoroethyl)vinyl isocyanate | FC(=C(C(C(Cl)(F)F)(F)F)N=C=O)F | C5ClF6NO
